US06515124B2
To a solution of benzothiophene (1.08 g, 8.0 mmol) in carbon disulfide (20 mL) at 0° C. was added titanium tetrachloride (3 mL, 27.3 mmol) followed by dichloromethyl n-butyl ether (1.24 g, 7.9 mmol) slowly dropwise. The reaction mixture was warmed to 25° C. and stirred for 1.5 h. The reaction was quenched with conc. hydrochloric acid solution (1 mL), diluted with chloroform (60 mL) and washed with water (50 mL), saturated sodium bicarbonate solution (2×30 mL) and brine (30 mL). The organic layer was dried (MgSO4), filtered, concentrated and flash chromatographed (silica gel, 2.5-5% diethyl ether in petroleum ether) to afford benzothiophene-3-carboxaldehyde (195 mg, 15% yield) as a yellow solid.

reactant | benzothiophene | 8.0 mmol, 1.08 g | S1C=CC2=C1C=CC=C2 | C8H6S
reactant | dichloromethyl n-butyl ether | 7.9 mmol, 1.24 g | C(CCC)OC(Cl)Cl | C5H10Cl2O
solvent | carbon disulfide | 20 mL | C(=S)=S | CS2
catalyst | titanium tetrachloride | 27.3 mmol, 3 mL | [Ti](Cl)(Cl)(Cl)Cl
product | benzothiophene-3-carboxaldehyde | 195 mg, 15% yield | S1C=C(C2=C1C=CC=C2)C=O | C9H6OS
